US07960393B2
A solution containing N-(4-{[4-chloro-5-(cyanomethyl)-6-(dimethylamino)pyrimidin-2-yl]methyl}phenyl)-2-naphthamide (0.279 g, 0.61 mmol), sodium azide (0.159 g, 2.44 mmol), zinc dibromide (0.345 g, 1.55 mmol), 2-propanol (2.7 mL), water (4 mL), and 1,4-dioxane (5 mL) was heated at reflux for 24 hours. After cooling to room temperature, EtOAc (4 mL) was added and stirring was continued for 2 hours. The resulting mixture was poured into water and the precipitate thus formed was collected by suction, rinsed with water and MeOH, and dried in vacuo to give N-(4-{([4-chloro-6-(dimethylamino)-5-(1H-tetrazol-5-ylmethyl)pyrimidin-2-yl]methyl}-phenyl)-2-naphthamide as a light beige solid (0.095 g, 31%).

reactant | N-(4-{[4-chloro-5-(cyanomethyl)-6-(dimethylamino)pyrimidin-2-yl]methyl}phenyl)-2-naphthamide | 0.61 mmol, 0.279 g | ClC1=NC(=NC(=C1CC#N)N(C)C)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C26H22ClN5O
reactant | sodium azide | 2.44 mmol, 0.159 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-propanol | 2.7 mL | CC(C)O | C3H8O
reactant | water | O | H2O
reactant | water | 4 mL | O | H2O
catalyst | zinc dibromide | 1.55 mmol, 0.345 g | [Br-].[Br-].[Zn+2]
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-{([4-chloro-6-(dimethylamino)-5-(1H-tetrazol-5-ylmethyl)pyrimidin-2-yl]methyl}-phenyl)-2-naphthamide | 0.095 g, 31% | ClC1=NC(=NC(=C1CC1=NN=NN1)N(C)C)CC1=C(C=CC=C1)C1=CC(=CC2=CC=CC=C12)C(=O)N | C26H23ClN8O
